US08138210B2
Synthesis of N-[3-(4-methylpiperazin-1-yl)-2,3-dihydro-1H-inden-5-yl]-5-chloro-3-methylbenzo[b]thiophene-2-sulfonamide (compound 3) by method A
A mixture of N-(3-oxo-2,3-dihydro-1H-inden-5-yl)-5-chloro-3-methylbenzo[b]thiophene-2-sulfonamide (100 mg, 0.26 mmol), 1-methylpiperazine (0.28 ml, 2.6 mmol) and titanium (IV) isopropoxide (0.1 ml, 0.33 mmol) was heated at 50° C. for 30 min. The material was dissolved in ethanol and sodium borohydride (11 mg, 0.29 mmol) was added. After stirring at reflux for 3 hours, 2N sodium carbonate was added. The mixture was filtered and the filtrate was concentrated in vacuo. The resulting crude was purified by chromatography on silica gel, using as an eluent mixtures of methylene chloride/methanol/ammonia yielding 80 mg (65%) of N-[3-(4-methylpiperazin-1-yl)-2,3-dihydro-1H-inden-5-yl]-5-chloro-3-methylbenzo[b]thiophene-2-sulfonamide as a solid.

reactant | N-(3-oxo-2,3-dihydro-1H-inden-5-yl)-5-chloro-3-methylbenzo[b]thiophene-2-sulfonamide | 0.26 mmol, 100 mg | O=C1CCC2=CC=C(C=C12)NS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)Cl)C | C18H14ClNO3S2
reactant | 1-methylpiperazine | 2.6 mmol, 0.28 ml | CN1CCNCC1 | C5H12N2
reactant | sodium borohydride | 0.29 mmol, 11 mg | [BH4-].[Na+]
reactant | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
catalyst | titanium (IV) isopropoxide | 0.33 mmol, 0.1 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | N-[3-(4-methylpiperazin-1-yl)-2,3-dihydro-1H-inden-5-yl]-5-chloro-3-methylbenzo[b]thiophene-2-sulfonamide | CN1CCN(CC1)C1CCC2=CC=C(C=C12)NS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)Cl)C | C23H26ClN3O2S2
